US04559402
Preparation of 2-methyl-3-nicotinoylpyrazolo[1,5-a]pyridine
To a mixture of 107 g of nicotinic acid and 315 ml of nitrobenzene were added dropwise whilst stirring 107 g of thionyl chloride, the mixture was warmed for one hour at a temperature of 160°-180° C. The reaction mixture was allowed to cool, then 35 g of 2-methylpyrazolo[1,5-a]pyridine was introduced in one portion, and the mixture was heated to 140°-160° C. for 2 hours, and poured into 1 l of ice water. Next, 50 ml of concentrated hydrochloric acid were added. This solution was extracted twice with 500 ml of benzene. After neutralizing with potassium carbonate, the aqueous layer was extracted with chloroform, the extract was dried with anhydrous Na2SO4 and after removal of the chloroform, the residue was chromatographed over SiO2 employing CH2Cl2 --AcOEt (3:2) mixture as eluent. The eluate was evaporated to dryness in vacuo and the residue was recrystallized (EtOH-Hexane); yield 30 g (46%), mp 89°-90° C.

reactant | nicotinic acid | 107 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | nitrobenzene | 315 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | thionyl chloride | 107 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-methylpyrazolo[1,5-a]pyridine | 35 g | CC1=NN2C(C=CC=C2)=C1 | C8H8N2
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 2-methyl-3-nicotinoylpyrazolo[1,5-a]pyridine | CC1=NN2C(C=CC=C2)=C1C(C1=CN=CC=C1)=O | C14H11N3O
